US05506219
A mixture of 1-(2-aminophenyl)-2-methyl-1-propanone (5.526 gm, 33.9 mmol), ethyl p-fluorobenzoylacetate (7.12 gm, 33.9 mmol) and concentrated H2SO4 (0.34 ml) in glacial HOAc (34 ml) was refluxed for 22 hours. The reaction mixture was cooled to room temperature and poured into an ice-cold solution of concentrated NH4OH (48 ml) in H2O (120 ml). The resulting mixture was extracted twice with Et2O and the combined Et2O layers were washed with H2O and brine, then dried (Na2SO4), filtered and stripped to yield a cloudy brown oil. Flash chromatography (Merck SiO2, 10% EtOAc in hexane) afforded impure 2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinoline-carboxylic acid, ethyl ester as an oil. Most of the volatile impurities were distilled off under an oil pump vacuum (bath temp. 85° C.), leaving a yellow oil (5.096 gm) which was 77% by weight 2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinolinecarboxylic acid, ethyl ester (34% effective yield).

reactant | 1-(2-aminophenyl)-2-methyl-1-propanone | 33.9 mmol, 5.526 gm | NC1=C(C=CC=C1)C(C(C)C)=O | C10H13NO
reactant | ethyl p-fluorobenzoylacetate | 33.9 mmol, 7.12 gm | FC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11FO3
reactant | H2SO4 | 0.34 ml | OS(=O)(=O)O | H2O4S
reactant | NH4OH | 48 ml | [NH4+].[OH-]
solvent | HOAc | 34 ml | CC(=O)O | C2H4O2
solvent | H2O | 120 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinoline-carboxylic acid, ethyl ester | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1C(=O)OCC)C(C)C | C21H20FNO2
